US06451822B1
3M aqueous hydrochloric acid (150 mL) was added to a suspension of 4-(3,5-dimethylbenzyl)-5-ethyl-2-methoxy-6-methyl-3-pivaloylaminopyridine (2.36 g) in water (300 mL). The mixture was refluxed for 3.5 h and then stirred at room temperature for 12 h. The solution was basified by adding concentrated ammonium hydroxyde and was extracted with 3×800 mL ethyl acetate. The combined organic layers were washed with 110 mL brine, dried over magnesium sulfate and concentrated under reduced pressure giving 3-amino-4-(3,5-dimethylbenzyl)-5-ethyl-6-methylpyridin-2(1H)-one. (1.79 g, 100%). mp 204-205° C.

reactant | hydrochloric acid | 3M, 150 mL | Cl | ClH
reactant | 4-(3,5-dimethylbenzyl)-5-ethyl-2-methoxy-6-methyl-3-pivaloylaminopyridine | 2.36 g | CC=1C=C(CC2=C(C(=NC(=C2CC)C)OC)NC(C(C)(C)C)=O)C=C(C1)C | C23H32N2O2
reactant | ammonium | [NH4+]
solvent | water | 300 mL | O | H2O
product | 3-amino-4-(3,5-dimethylbenzyl)-5-ethyl-6-methylpyridin-2(1H)-one | NC=1C(NC(=C(C1CC1=CC(=CC(=C1)C)C)CC)C)=O | C17H22N2O
